US06133258
In an atmosphere of argon, a mixture of 290 mg (1.0 mmol) of 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one and 1.4 ml of DMSO was put in a 30 ml flask. To the mixture was then added 113 mg (1.0 mmol) of potassium t-butoxide with stirring. The mixture was then stirred for 1 hour. To the mixture was then added 10 mg (0.06 eq) of potassium iodide. To the mixture was then added 484 mg of 2-bromomethyl-1,3-dioxolane. The mixture was then stirred for 15 hours. After the termination of reaction, the reaction mixture was extracted with water and ethyl acetate. The resulting organic phase was separated, washed with water and saturated brine, and then dried over sodium sulfate. The drying agent was then removed by filtration. The filtrate was then concentrated under reduced pressure. The resulting residue was then purified through silica gel column chromatography (eluant: 1/2 mixture of ethyl acetate and normal hexane). As a result, 36 mg of 2-[(4-chlorophenyl)imino]-3-([1,3]dioxolan-2-ylmethyl)-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained as a low polarity substance, and 20 mg of 2-[N-(4-chlorophenyl)-N-([1,3]dioxolan-2-ylmethyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one was obtained as a high polarity substance.

reactant | 2-(4-chloroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 1.0 mmol, 290 mg | ClC1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C13H8ClN3OS
reactant | potassium t-butoxide | 1.0 mmol, 113 mg | CC(C)([O-])C.[K+]
reactant | potassium iodide | 10 mg, 0.06 eq | [I-].[K+]
reactant | 2-bromomethyl-1,3-dioxolane | 484 mg | BrCC1OCCO1 | C4H7BrO2
solvent | DMSO | 1.4 ml | CS(=O)C | C2H6OS
product | 2-[(4-chlorophenyl)imino]-3-([1,3]dioxolan-2-ylmethyl)-2,3-dihydro-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 36 mg | ClC1=CC=C(C=C1)N=C1SC2=C(C(N1CC1OCCO1)=O)C=CC=N2 | C17H14ClN3O3S
